US09079853B2
3-(3,4-dimethoxybenzyl)-1-isopentyl-5-methyl-2-oxoindolin-3-yl benzoate
This compound was made in an analogous fashion to 1-ethyl-5-methyl-2-oxo-3-(3,4,5-trimethoxybenzyl)indolin-3-yl benzoate using 1-isopentyl-5-methyl-2-oxoindolin-3-yl benzoate and 4-(bromomethyl)-1,2-dimethoxybenzene. 1H-NMR δ 8.06 (d, 2H), 7.57 (t, 1H), 7.43 (t, 2H), 7.08 (d, 1H), 6.93 (s, 1H), 6.67 (d, 1H), 6.60 (t, 2H), 6.36 (s, 1H), 3.82 (s, 3H), 3.64 (m, 4H), 3.46 (m, 2H), 3.26 (d, 1H), 2.27 (s, 3H), 1.50 (m, 1H), 1.26 (m, 2H) 0.92 (dd, 6H).

reactant | 1-ethyl-5-methyl-2-oxo-3-(3,4,5-trimethoxybenzyl)indolin-3-yl benzoate | C(C1=CC=CC=C1)(=O)OC1(C(N(C2=CC=C(C=C12)C)CC)=O)CC1=CC(=C(C(=C1)OC)OC)OC | C28H29NO6
reactant | 1-isopentyl-5-methyl-2-oxoindolin-3-yl benzoate | C(C1=CC=CC=C1)(=O)OC1C(N(C2=CC=C(C=C12)C)CCC(C)C)=O | C21H23NO3
reactant | 4-(bromomethyl)-1,2-dimethoxybenzene | BrCC1=CC(=C(C=C1)OC)OC | C9H11BrO2
product | 3-(3,4-dimethoxybenzyl)-1-isopentyl-5-methyl-2-oxoindolin-3-yl benzoate | C(C1=CC=CC=C1)(=O)OC1(C(N(C2=CC=C(C=C12)C)CCC(C)C)=O)CC1=CC(=C(C=C1)OC)OC | C30H33NO5
